US04767882
A suspension of lithium aluminum hydride (16.8 g; 0.442 mol) in tetrahydrofuran (200 ml) was heated up to 60° C., a solution of (S)-3-carboxymethyl-1,1,4,4,6-pentamethyl-1,2,3,4-tetrahydronapthalene ([α]546 +25.3° (C=1 in benzene)) (76.4 g; 0.294 mol) in tetrahydrofuran was added dropwise thereto. The resultant mixture was stirred at 60° C. for 2 hours. The reaction mixture was cooled, treated with dilute hydrochloric acid and extracted with toluene (200 ml). The extract was washed with dilute hydrochloric acid, saturated sodium carbonate solution and saturated sodium chloride solution in order, dried over anhydrous sodium sulfate and concentrated to give (S)-3-(2-hydroxyethyl)-1,1,4,4,6-pentamethyl-1,2,3,4-tetrahydronaphthalene (70.5 g; 0.28 mol; 97.5%). [α]546 -8.1° (C=0.62 in ethanol).

reactant | lithium aluminum hydride | 0.442 mol, 16.8 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | (S)-3-carboxymethyl-1,1,4,4,6-pentamethyl-1,2,3,4-tetrahydronapthalene | 0.294 mol, 76.4 g | C(=O)(O)C[C@@H]1CC(C2=CC=C(C=C2C1(C)C)C)(C)C | C17H24O2
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | (S)-3-(2-hydroxyethyl)-1,1,4,4,6-pentamethyl-1,2,3,4-tetrahydronaphthalene | 0.28 mol, 70.5 g, 97.5% | OCC[C@@H]1CC(C2=CC=C(C=C2C1(C)C)C)(C)C | C17H26O
